US06723735B1
A mixture of 5-bromo-2-chloro-3-nitropyridine (4.1 g, 17 mmol), 3-(imidazol-1-yl)phenylamine (2.5 g, 16 mmol) and potassium carbonate (1.3 g, 9.4 mmol) in N,N-dimethylformamide (15 ml) was heated at 110° C. for 2 hours. The reaction was cooled to ambient temperature, diluted with ethyl acetate (100 ml) and methanol (100 ml) then pre-adsorbed on to silica. Purification by silica gel chromatography eluting with dichloromethane/methanol/0.880 NH3 (97:2.7:0.3) gave N-(5-bromo-3-nitropyridin-2-yl)-N-[3-(imidazol-1-yl)phenyl]amine as a red solid (1.1 g, 19%).

reactant | 5-bromo-2-chloro-3-nitropyridine | 17 mmol, 4.1 g | BrC=1C=C(C(=NC1)Cl)[N+](=O)[O-] | C5H2BrClN2O2
reactant | 3-(imidazol-1-yl)phenylamine | 16 mmol, 2.5 g | N1(C=NC=C1)C=1C=C(C=CC1)N | C9H9N3
reactant | potassium carbonate | 9.4 mmol, 1.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 100 ml | CO | CH4O
product | N-(5-bromo-3-nitropyridin-2-yl)-N-[3-(imidazol-1-yl)phenyl]amine | 1.1 g, 19% | BrC=1C=C(C(=NC1)NC1=CC(=CC=C1)N1C=NC=C1)[N+](=O)[O-] | C14H10BrN5O2
